US07875636B2
To a solution of 0.70 g (2.87 mmol) (S)-(+)-2-fluoro-alpha-methyl-4-biphenylacetic acid in 6.00 ml DMF was added 0.60 g (3.15 mmol) (1R)-1-(5-methoxypyridin-2-yl)ethanaminium chloride, 0.51 g (3.73 mmol) HOAT, 0.71 g (3.73 mmol) EDC, and 1.50 mL (8.60 mmol) DIEA. After 2.00 h at room temperature, the reaction mixture was diluted with CH2Cl2, washed three times with water, and washed with brine. The organic layer was dried over NaSO4, filtered and concentrated in vacuo. Purification by flash chromatography (1×14 cm silica gel, linear gradient 30-65% EtOAc:hexane) afforded (2S)-2-(2-fluoro-1,1′-biphenyl-4-yl)-N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]propanamide. 1H NMR (CDCl3, 400 MHz) δ 8.19 (m, 1H); 7.56-7.54 (m, 2H); 7.46-7.34 (m, 4H); 7.20-7.14 (m, 4H); 6.78 (br d, 1H, J=7.33 Hz); 5.09 (m, 1H); 3.85 (s, 1H); 3.60 (q, 1H, J=7.15 Hz, 14.29 Hz); 1.53 (d, 3H, J=7.14); 1.37 (d, 3H, J=6.77 Hz). HRMS (ES) exact mass calcd for C23H23FN2O2: 379.1817, Found: 379.1817.

reactant | (S)-(+)-2-fluoro-alpha-methyl-4-biphenylacetic acid | 2.87 mmol, 0.70 g | FC1=C(C=CC(=C1)[C@@H](C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | (1R)-1-(5-methoxypyridin-2-yl)ethanaminium chloride | 3.15 mmol, 0.60 g | [Cl-].COC=1C=CC(=NC1)[C@@H](C)[NH3+]
reactant | HOAT | 3.73 mmol, 0.51 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 3.73 mmol, 0.71 g
reactant | DIEA | 8.60 mmol, 1.50 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6.00 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2S)-2-(2-fluoro-1,1′-biphenyl-4-yl)-N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]propanamide | FC1=C(C=CC(=C1)[C@@H](C(=O)N[C@H](C)C1=NC=C(C=C1)OC)C)C1=CC=CC=C1 | C23H23FN2O2
